US04777283
45 5 g of δ-chlorobutyl carbamate were initially introduced as a melt and 63 g of phosgene were passed into the melt at 80° C. within 6 hours. 150 g of chlorobenzene and 0.36 g (=0.4 mol %) of methylstearylformamide were then added and a further 159 g of phosgene were passed into the mixture at 130° C. over a further 16 hours. Excess phosgene was subsequently driven out using nitrogen. 23.7 g of δ-chlorobutyloxycarbonyl isocyanate having a boiling point of 86° to 109° C. at 20 mbar were obtained on subsequent distillation, corresponding to a yield of 44% of theory.

reactant | δ-chlorobutyl carbamate | C(N)(OCCCCCl)=O | C5H10ClNO2
reactant | phosgene | 63 g | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | 159 g | C(=O)(Cl)Cl | CCl2O
catalyst | methylstearylformamide | 0.36 g | CCCCCCCCCCCCCCCCCCCNC=O | C20H41NO
solvent | chlorobenzene | 150 g | ClC1=CC=CC=C1 | C6H5Cl
product | δ-chlorobutyloxycarbonyl isocyanate | 23.7 g, yield of 44% | ClCCCCOC(=O)N=C=O | C6H8ClNO3
